US05616599
47(i) Diethyl 1-benzyl-2-ethylimidazole-4,5-dicarboxylate
Following a procedure similar to that described in Preparation42(i), 4.00 g of diethyl 2-ethylimidazole-4,5-dicarboxylate were benzylated, using 2.20 ml of benzyl bromide. The product was purified by column chromatography through silica gel, using a 1:1 by volume mixture of methylene chloride and ethyl acetate as the eluent, to give 5.19 g of the title compound as a syrup.

reactant | diethyl 2-ethylimidazole-4,5-dicarboxylate | 4.00 g | C(C)C=1NC(=C(N1)C(=O)OCC)C(=O)OCC | C11H16N2O4
reactant | benzyl bromide | 2.20 ml | C(C1=CC=CC=C1)Br | C7H7Br
product | Diethyl 1-benzyl-2-ethylimidazole-4,5-dicarboxylate | 5.19 g | C(C1=CC=CC=C1)N1C(=NC(=C1C(=O)OCC)C(=O)OCC)CC | C18H22N2O4
